US07713993B2
Synthesis of 2-[4-chloro-1-(4-fluorophenyl)butyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole
Imidazole (211 mg), carbon tetrabromide (1.0 g) and triphenylphosphine (244 mg) were added to a solution of 5-chloro-2-(4-fluorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide (300 mg) in methylene chloride (5 mL), and the reaction solution was stirred at room temperature for 14 hours. The reaction solution was purified as is by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=1:1->ethyl acetate) to obtain 264 mg of the title compound. The property value of the compound is as follows.

reactant | Imidazole | 211 mg | N1C=NC=C1 | C3H4N2
reactant | carbon tetrabromide | 1.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 244 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-chloro-2-(4-fluorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 300 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(C(CCCCl)C1=CC=C(C=C1)F)=O | C25H26ClFN4O3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-chloro-1-(4-fluorophenyl)butyl]-5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole | 264 mg | ClCCCC(C1=CC=C(C=C1)F)C=1OC(=NN1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C25H24ClFN4O2
